US07291642B2
Analogously to 13b), N-{3-[(2,3-dichlorobenzenesulphonyl)methylamino]propyl}-3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylpropionamide was prepared from 0.7 g (1.49 mmol) of 3-(4-cyanophenyl)-N-{3-[(2,3-dichlorobenzenesulphonyl)methylamino]propyl}-N-methylpropionamide, 0.1 g (3.12 mmol) of sulphur and 3 ml of ethylenediamine.

reactant | 3-(4-cyanophenyl)-N-{3-[(2,3-dichlorobenzenesulphonyl)methylamino]propyl}-N-methylpropionamide | 1.49 mmol, 0.7 g | C(#N)C1=CC=C(C=C1)CCC(=O)N(C)CCCNCS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C21H23Cl2N3O3S
reactant | sulphur | 3.12 mmol, 0.1 g | [S] | S
reactant | ethylenediamine | 3 ml | C(CN)N | C2H8N2
product | N-{3-[(2,3-dichlorobenzenesulphonyl)methylamino]propyl}-3-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylpropionamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)CNCCCN(C(CCC1=CC=C(C=C1)C=1NCCN1)=O)C | C23H28Cl2N4O3S
